US07507736B2
4-[1-Isopropyl-5-(1-isopropyl-piperidin-4-yloxy)-1H-indole-2-carbonyl]-piperazine-1-carboxylic acid methyl ester
The title compound was prepared in analogy to example 51, from [1-isopropyl-5-(1-isopropyl-piperidin-4-yloxy)-1H-indol-2-yl]-piperazin-1-yl-methanone hydrochloride and methyl chloroformate. Light-yellow solid. MS (m/z): 471.3 (M+H)+.

reactant | [1-isopropyl-5-(1-isopropyl-piperidin-4-yloxy)-1H-indol-2-yl]-piperazin-1-yl-methanone hydrochloride | Cl.C(C)(C)N1C(=CC2=CC(=CC=C12)OC1CCN(CC1)C(C)C)C(=O)N1CCNCC1
reactant | methyl chloroformate | ClC(=O)OC | C2H3ClO2
product | 4-[1-Isopropyl-5-(1-isopropyl-piperidin-4-yloxy)-1H-indole-2-carbonyl]-piperazine-1-carboxylic acid methyl ester | COC(=O)N1CCN(CC1)C(=O)C=1N(C2=CC=C(C=C2C1)OC1CCN(CC1)C(C)C)C(C)C | C26H38N4O4
